US07745452B2
Utilizing the general procedure outlined for 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one, 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (374 mg, 1.1 mmol) was reacted with 1.0M allyl magnesium bromide (6.4 ml, 6.4 mmol) to afford 4-allyl-6-chloro-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 9.88 (s, 1H), 7.29 (dd, J=2.4 and 8.6 Hz, 1H), 7.17 (s, 1H), 6.80 (d, J=8.8 Hz, 1H), 5.53 (m, 1H), 5.22 (m, 2H), 4.56 (m, 1H), 4.12 (m, 1H), 3.11 (m, 2H). MS (Electrospray): m/z 373.0 (M+).

reactant | 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C17H11ClF6N2O
reactant | 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 1.1 mmol, 374 mg | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)O | C11H7ClF6N2O2
reactant | allyl magnesium bromide | 6.4 mmol, 1.0M, 6.4 ml | C(C=C)[Mg]Br
product | 4-allyl-6-chloro-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | C(C=C)C1(N(C(NC2=CC=C(C=C12)Cl)=O)CC(F)(F)F)C(F)(F)F | C14H11ClF6N2O
